US07625888B2
Step C: [(1R)-1-(2,5-Difluorobenzyl)-2-[1,2,4]triazolo[3,4-a]isoquinolin-3-ylethyl]amine, dihydrochloride
A mixture of 43.9 mg (0.1 mmol) of tert-butyl[(1R)-1-(2,5-difluorobenzyl)-2-[1,2,4]triazolo[3,4-a]isoquinolin-3-ylethyl]carbamate and 2 mL of 4M HCl in anhydrous dioxane was stirred at room temperature in a stoppered flask. After 2 h, the solvent was evaporated, and the residue was stirred with diethyl ether. The solid was collected on a filter, washed with diethyl ether, and dried to give the title compound as an off-white powder. LC-MS 339 (M+1).

reactant | tert-butyl[(1R)-1-(2,5-difluorobenzyl)-2-[1,2,4]triazolo[3,4-a]isoquinolin-3-ylethyl]carbamate | 0.1 mmol, 43.9 mg | C(C)(C)(C)OC(N[C@@H](CC1=NN=C2N1C=CC1=CC=CC=C21)CC2=C(C=CC(=C2)F)F)=O | C24H24F2N4O2
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [(1R)-1-(2,5-Difluorobenzyl)-2-[1,2,4]triazolo[3,4-a]isoquinolin-3-ylethyl]amine, dihydrochloride | Cl.Cl.FC1=C(C[C@H](CC2=NN=C3N2C=CC2=CC=CC=C32)N)C=C(C=C1)F | InChI=1S/C19H16F2N4.2ClH/c20-14-5-6-17(21)13(9-14)10-15(22)11-18-23-24-19-16-4-2-1-3-12(16)7-8-25(18)19;;/h1-9,15H,10-11,22H2;2*1H/t15-;;/m1../s1
